US04151357
(E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol diisonicotinate
To a solution of 1.0 g of (E,Z,E) and (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol in 30 ml of anhydrous chloroform was added 3.0 ml of triethylamine and then 2.0 g of isonicotinoyl chloride hydrochloride dropwise at room temperature. Stirring was continued for 3 hours. The reaction mixture was poured into ice-water, extracted with chloroform, washed with aqueous sodium hydrogencarbonate and water and dried over anhydrous sodium sulfate. The solvent was distilled off to give an oily substance, which was then purified by a column chromatography with silica gel (20 g) to afford 1.4 g of the end product.

reactant | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol | OC/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | C20H34O2
reactant | triethylamine | 3.0 ml | C(C)N(CC)CC | C6H15N
reactant | isonicotinoyl chloride hydrochloride | 2.0 g | Cl.C(C1=CC=NC=C1)(=O)Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | (E,E,E)-7-hydroxymethyl-3,11,15-trimethyl-2,6,10,14-hexadecatetraen-1-ol diisonicotinate | 1.4 g | C(C1=CC=NC=C1)(=O)O.C(C1=CC=NC=C1)(=O)O.OC/C(=C/CC/C(=C/CO)/C)/CC\C=C(\CCC=C(C)C)/C | InChI=1S/C20H34O2.2C6H5NO2/c1-17(2)8-5-9-18(3)10-6-12-20(16-22)13-7-11-19(4)14-15-21;2*8-6(9)5-1-3-7-4-2-5/h8,10,13-14,21-22H,5-7,9,11-12,15-16H2,1-4H3;2*1-4H,(H,8,9)/b18-10+,19-14+,20-13+;;
